US06875765B2
A solution of lithium aluminum hydride (1.45 mL, 1.0 M in ether) was added in 3 portions over a period of 35 minutes to a solution of 3-(4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester (270 mg, 0.45 mmol) in dry ether (12 mL) and tetrahydrofuran (2 mL) at −65° C. under an atmosphere of dry nitrogen. The reaction mixture was stirred at −65° C. for an additional 10 minutes followed by the careful, dropwise addition of 0.3 N KHSO4 (10 mL) at −65° C. The reaction mixture was allowed to warm to room temperature and 0.1 N HCl (20 mL) was added. The organic layer was collected, dried (MgSO4) and evaporated to give the crude aldehyde (230 mg). Flash chromatography (silica, 2:1 ethyl acetate/hexane) provided pure 3-[4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester (140 mg).

reactant | lithium aluminum hydride | 1.0 M, 1.45 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.45 mmol, 270 mg | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=CC=CC2=CC=CC=C12)=O | C30H37N3O8S
reactant | KHSO4 | 0.3 N, 10 mL | OS(=O)(=O)[O-].[K+]
reactant | HCl | 0.1 N, 20 mL | Cl | ClH
solvent | ether | 12 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-[4-acetylamino-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester | 140 mg | C(C)(C)(C)OC(CC(C=O)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=CC=CC2=CC=CC=C12)=O | C28H32N2O7S
